US07291631B2
At −78° C., under N2, BuLi (2.5 M in hexanes, 0.80 mL, 2.0 mmol) was added to a solution of TMEDA (0.30 mL, 2.0 mmol) in dry Et2O (20 mL). After addition the mixture was warmed to room temperature. After stirred at room temperature for 30 min the mixture was cooled to −78° C., and added to a solution of 3-chloro-5-methyl-pyridine (0.255 g, 2.00 mmol) (Bushby et al. J. Chem. Soc. Perkin Trans. 11978, 1578) in dry Et2O (10 mL) pre-cooled at −78° C. The mixture was stirred at −78° C. for 30 min and then warmed to room temperature for 1 h. Water (15 mL) was added, and the mixture was extracted with Et2O (3×40 mL). The organic extracts were combined and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (CH2Cl2) to afford 3-chloro-5-methyl-pyridine-2-carbaldehyde (0.096 g, 31%). 1H NMR (CDCl3) δ 2.44 (s, 3H), 7.65 (s, 1H), 8.54 (s, 1H), 10.28 (s, 1H).

reactant | BuLi | 2.0 mmol, 2.5 M, 0.80 mL | [Li]CCCC
reactant | TMEDA | 2.0 mmol, 0.30 mL | CN(C)CCN(C)C | C6H16N2
reactant | 3-chloro-5-methyl-pyridine | 2.00 mmol, 0.255 g | ClC=1C=NC=C(C1)C | C6H6ClN
reactant | Water | 15 mL | O | H2O
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 3-chloro-5-methyl-pyridine-2-carbaldehyde | 0.096 g, 31% | ClC=1C(=NC=C(C1)C)C=O | C7H6ClNO
